US06372759B1
A) 2-Nitro-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline
A solution of 2-nitrophenyl isocyanate (4.25 g, 25.9 mmol) and 1-(4-pyridyl)-4-piperidinemethanol (4.13 g, 21.5 mmol) in dichloromethane (100 mL) was stirred at room temperature overnight (about 18 h). The mixture was concentrated and the residue purified by flash chromatography (SiO2; CHCl3 to 5% MeOH/1% Et3N in CHCl3) to yield 7.55 g (96%) of the title compound.

reactant | 2-nitrophenyl isocyanate | 25.9 mmol, 4.25 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
reactant | 1-(4-pyridyl)-4-piperidinemethanol | 21.5 mmol, 4.13 g | N1=CC=C(C=C1)N1CCC(CC1)CO | C11H16N2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Nitro-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline | 7.55 g, 96% | [N+](=O)([O-])C1=C(NC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC=C1 | C18H20N4O4
